US07294635B2
A mixture of bis(benzonitril)dichloropalladium(II) (53 mg, 0.14 mmol) and copper (I) iodide (26 mg, 0.14 mmol) in 6 mL dry THF was purged with argon for 3 minutes, then was added tri(tert-butyl phosphine) (69 ul, 0.28 mmol), TMS acetylene (0.77 ml, 5.5 mmol), 3-bromo-4-fluoronitrobenzene 505 mg, 2.295 mmol), and di-isopropylamine (0.77 ml, 5.5 mmol). The mixture was stirred at room temperature for 5 hours under argon. To the reaction mixture was added 7 mL 1 M TBAF/THF and the mixture was stirred at room temperature for 10 minutes. Workup and purification by column chromatography (silica, 5%-35% EtOAc/hexane) give 2-ethynyl-1-fluoro-4-nitro-benzene.

reactant | TMS acetylene | 5.5 mmol, 0.77 ml | [Si](C)(C)(C)C#C | C5H10Si
reactant | 3-bromo-4-fluoronitrobenzene | 2.295 mmol, 505 mg | BrC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3BrFNO2
reactant | di-isopropylamine | 5.5 mmol, 0.77 ml | C(C)(C)NC(C)C | C6H15N
reactant | TBAF THF | 1 M, 7 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-].C1CCOC1
solvent | THF | 6 mL | C1CCOC1 | C4H8O
catalyst | bis(benzonitril)dichloropalladium(II) | 0.14 mmol, 53 mg | C1=CC=C(C=C1)C#N.C1=CC=C(C=C1)C#N.Cl[Pd]Cl
catalyst | copper (I) iodide | 0.14 mmol, 26 mg | [Cu]I
product | 2-ethynyl-1-fluoro-4-nitro-benzene | C(#C)C1=C(C=CC(=C1)[N+](=O)[O-])F | C8H4FNO2
